US07713658B2
A flask equipped with a thermometer, nitrogen gas inlet tube, reflux condenser, stirrer and dropping funnel was charged with 85 g (1.0 mol) of methylpyrrolidine and 400 g of 2-butanone (hereinafter referred to as MEK) and, while maintaining the temperature at 50° C. under a nitrogen stream, 205.5 g (1.5 mol) of n-butyl bromide was added dropwise over 2 hours and, then, the temperature was maintained at 80° C. for 2 hours to drive the reaction to completion. Then, the reaction mixture was filtered to give N-methyl-N-butylpyrrolidinium bromide (hereinafter referred to as MBPyBr) as slightly yellowish white crystals. These crystals were then washed with MEK twice to give 187 g (yield 90%) of white MBPyBr.

reactant | methylpyrrolidine | 1.0 mol, 85 g | CN1CCCC1 | C5H11N
reactant | n-butyl bromide | 1.5 mol, 205.5 g | C(CCC)Br | C4H9Br
solvent | MEK | CCC(=O)C | C4H8O
solvent | 2-butanone | 400 g | CC(CC)=O | C4H8O
product | N-methyl-N-butylpyrrolidinium bromide | [Br-].C[N+]1(CCCC1)CCCC | InChI=1S/C9H20N.BrH/c1-3-4-7-10(2)8-5-6-9-10;/h3-9H2,1-2H3;1H/q+1;/p-1
